US05167691
A stirred solution of 6.0 grams (0.019 mole) of 5 -amino-1-(3,6-dichloro-5-trifluoromethylpyridin-2-yl)-4-cyanopyrazole and 15.4 grams (0.144 mole) of benzylamine in 100 mL of tetrahydrofuran was heated at reflux for 3.5 hours. The reaction mixture was cooled and filtered. The filtrate was evaporated under reduced pressure, leaving a residue. This residue was dissolved in methylene chloride, and the organic solution was washed in succession with water, dilute hydrochloric acid, and water. The washed organic phase was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure, leaving a pale yellow solid residue. This residue, in 200 mL of petroleum ether, was heated to reflux and then allowed to cool to room temperature. The mixture was filtered, and the filter cake was dried to yield 3.0 grams of 5-amino-1-(3-chloro-5-trifluoromethyl-6-phenylmethylaminopyridin -2-yl)-4-cyanopyrazole. The nmr spectrum was consistent with the proposed structure.

reactant | 5 -amino-1-(3,6-dichloro-5-trifluoromethylpyridin-2-yl)-4-cyanopyrazole | 0.019 mole, 6.0 grams | NC1=C(C=NN1C1=NC(=C(C=C1Cl)C(F)(F)F)Cl)C#N | C10H4Cl2F3N5
reactant | benzylamine | 0.144 mole, 15.4 grams | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-amino-1-(3-chloro-5-trifluoromethyl-6-phenylmethylaminopyridin -2-yl)-4-cyanopyrazole | 3.0 grams | NC1=C(C=NN1C1=NC(=C(C=C1Cl)C(F)(F)F)NCC1=CC=CC=C1)C#N | C17H12ClF3N6
